US08497360B2
Under a nitrogen atmosphere (1S)-camphanic acid chloride (0.89 g, 4.09 mmol) was added to a solution of (RS)-1-(4-Iodo-2-nitrophenyl)-2-methyl-1-propanol (1.10 g, 3.41 mmol) and DMAP (0.50 g, 4.09 mmol) in anhydrous dichloromethane (30 mL). The mixture was stirred for 1.5 hours at room temperature and then concentrated in vacuo. The residue was purified by silica gel column chromatography to (RS)-1-(4-Iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanates (1.44 g, 84%, 1:1 mixture of diastereomers) as a solid, which was dissolved in boiling methanol (70 mL) and left at room temperature overnight. Crystals formed were filtered to yield pure (R)-1-(4-iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanate (0.465 g, 65%). The mother liquor was evaporated, and the residue was dissolved in boiling isopropanol (40 mL) and left at room temperature overnight. Crystals formed were filtered and recrystallized from boiling isopropanol (20 mL) to yield pure (S)-1-(4-iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanate (0.288 g, 40%). 1H NMR (400 MHz, CDCl3) for (R,S)-camphanate: δ 8.30 (d, 1 H, J=1.8 Hz, Ph-H), 7.92 (dd, 1 H, J=1.8 and 8.3 Hz, Ph-H), 7.56 (d, 1 H, J=8.3 Hz, Ph-H), 6.27 (d, 1 H, J=6.8 Hz, Ph-CH), 2.40 (m, 1H), 2.23 (m, 1H), 2.06 (m, 1H), 1.92 (m, 1H), 1.72 (m, 1H), 1.11 (s, 3 H, CH3), 1.03 (d, J=6.8 Hz, 3 H, CH3), 1.02 (s, 1 H, CH3), 0.98 (d, J=6.8 Hz, 3 H, CH3), 0.82 (s, 3 H, CH3); 13C NMR (100 MHz, CDCl3) for (R,S)-camphanate: δ 178.21 (C), 166.92 (C), 148.67 (C), 142.07 (CH), 134.80 (C), 133.34 (CH), 129.73 (CH), 92.59 (C), 90.75 (C), 76.07 (CH), 54.79 (C), 54.34 (C), 33.27 (CH), 31.03 (CH2), 28.88 (CH2), 19.07 (CH3), 17.40 (CH3), 16.70 (CH3), 16.66 (CH3), 9.61 (CH3).

reactant | (1S)-camphanic acid chloride | 4.09 mmol, 0.89 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | (RS)-1-(4-Iodo-2-nitrophenyl)-2-methyl-1-propanol | 3.41 mmol, 1.10 g | IC1=CC(=C(C=C1)C(C(C)C)O)[N+](=O)[O-] | C10H12INO3
catalyst | DMAP | 4.09 mmol, 0.50 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (R)-1-(4-iodo-2-nitrophenyl)-2-methyl-1-propyl (1S)-camphanate | 0.465 g, 65% | [C@]12(C(CC(CC1)C2(C)C)C(=O)O[C@H](C(C)C)C2=C(C=C(C=C2)I)[N+](=O)[O-])C | C21H28INO4
